US07947851B2
Step b) Formation of 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(1-naphthylmethyl)amino]-2-hydroxybenzoic acid, hydrochloride salt
To a solution of 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(1-naphthylmethyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one (72 mg, 0.12 mmol) in dioxane (2 ml) was added a solution of LiOH hydrate (25 mg, 0.60 mmol) in water (0.2 mL). The reaction mixture was heated at 80° C. for 2 hrs. Then a solution of HCl in dioxane (1 mL, 4N) and a saturated aqueous solution of NaCl (5 mL) were added and extracted with Et2O (2×10 mL). The combined organic layers were dried over Na2SO4 and the solvents were removed under reduced pressure. The residue was dissolved in a solution of HCl in Et2O (1 mL, 1N) and DCM (1 mL). Evaporation of the solvent under reduced pressure gave 41 mg (51%) of the title compound as a beige foam. HPLC, Rt: 5.8 min (purity: 82.7%). LC/MS, M+(ESI): 540.3, M−(ESI): 538.3. 1H NMR (CD3OD) δ: 7.97 (m, 3H), 7.72 (m, 1H), 7.58-7.41 (m, 11H), 7.23 (d, J=8.3 Hz, 2H), 6.92 (d, J=9.0 Hz, 1H), 5.42 (s, 2H), 5.11 (s, 2H), 2.67 (t, J=7.5 Hz, 2H), 1.64 (m, 2H), 1.38 (m, 2H), 0.98 (t, J=7.4 Hz, 3H).

reactant | 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(1-naphthylmethyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 0.12 mmol, 72 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CC2=CC=CC3=CC=CC=C23)C=C1 | C40H37NO3
reactant | LiOH hydrate | 0.60 mmol, 25 mg | O[Li].O
reactant | HCl | Cl | ClH
reactant | NaCl | 5 mL | [Na+].[Cl-]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.2 mL | O | H2O
solvent | dioxane | 4N, 1 mL | O1CCOCC1 | C4H8O2
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(1-naphthylmethyl)amino]-2-hydroxybenzoic acid, hydrochloride salt | 41 mg, 51% | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)CC2=CC=CC3=CC=CC=C23)C=C1 | InChI=1S/C37H33NO3.ClH/c1-2-3-7-27-12-14-28(15-13-27)16-17-29-18-20-30(21-19-29)25-38(33-22-23-36(39)35(24-33)37(40)41)26-32-10-6-9-31-8-4-5-11-34(31)32;/h4-6,8-15,18-24,39H,2-3,7,25-26H2,1H3,(H,40,41);1H
